US07834063B2
4-[(Cyclopropylmethyl)(3-{[4-(methyloxy)phenyl]oxy}propyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(cyclopropylmethyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile and 4-methoxyphenol: MS (APCI) m/z 405 (M+1).

reactant | 4-[(cyclopropylmethyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCO | C15H17F3N2O
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
product | 4-[(Cyclopropylmethyl)(3-{[4-(methyloxy)phenyl]oxy}propyl)amino]-2-(trifluoromethyl)benzonitrile | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCOC1=CC=C(C=C1)OC | C22H23F3N2O2
